US07144893B2
4-(Benzothiazol-2-yl)-3-chloro-4-hydroxy-2,5-cyclohexadien-1-one (Q06)
The title compound was synthesised according to Method A, described above, from benzothiazole and 2-chloro-4,4-dimethoxycyclohexa-2,5-dien-1-one (see, e.g., McKillop et al., 1993).

reactant | benzothiazole | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | 2-chloro-4,4-dimethoxycyclohexa-2,5-dien-1-one | ClC=1C(C=CC(C1)(OC)OC)=O | C8H9ClO3
product | 4-(Benzothiazol-2-yl)-3-chloro-4-hydroxy-2,5-cyclohexadien-1-one | Yield 58% | S1C(=NC2=C1C=CC=C2)C2(C(=CC(C=C2)=O)Cl)O | C13H8ClNO2S
